US07956191B2
4-[(4-aminopiperidin-1-yl)carbonyl]-N-(2-fluoro-4-iodophenyl)pyridin-3-amine was synthesized from tert-butyl(1-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}piperidin-4-yl)carbamate (described below) by deprotection of the Boc group with TFA/DCM: 0.33 mmol of tert-butyl(1-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}piperidin-4-yl)carbamate was dissolved in 4 ml of 50:50 mixture of TFA/dichloromethane. After 2 hours of stirring at room temperature the volatiles were stripped and the residue was re-dissolved in 2 ml of methanol. 1.0N HCl in diethylether was added and the product precipitated. LC/MS [2.01 min; 441 (free base, M+1)]

reactant | tert-butyl(1-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}piperidin-4-yl)carbamate | C(C)(C)(C)OC(NC1CCN(CC1)C(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O)=O | C22H26FIN4O3
reactant | tert-butyl(1-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}piperidin-4-yl)carbamate | 0.33 mmol | C(C)(C)(C)OC(NC1CCN(CC1)C(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O)=O | C22H26FIN4O3
reactant | HCl | 1.0N | Cl | ClH
solvent | TFA dichloromethane | C(=O)(C(F)(F)F)O.ClCCl
solvent | methanol | 2 ml | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-[(4-aminopiperidin-1-yl)carbonyl]-N-(2-fluoro-4-iodophenyl)pyridin-3-amine | NC1CCN(CC1)C(=O)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C17H18FIN4O
